US04699914
1-(2-(2-nitro-1-propenyl)-4-thienyl]-imidazole
A mixture of 94 g 4-(1-imidazolyl)-thiophene-2-aldehyde (EPA 112 987), 47.7 g nitroethane, 4.9 g β-alanine and 327 ml n-butanol is stirred for 9 hours at reflux temperature. Subsequently, it is evaporated and the residue is purified by column chromatography (silica gel//dichloromethane/methanol).

reactant | 4-(1-imidazolyl)-thiophene-2-aldehyde | 94 g | N1(C=NC=C1)C=1C=C(SC1)C=O | C8H6N2OS
reactant | nitroethane | 47.7 g | [N+](=O)([O-])CC | C2H5NO2
reactant | β-alanine | 4.9 g | NCCC(=O)O | C3H7NO2
solvent | n-butanol | 327 ml | C(CCC)O | C4H10O
product | 1-(2-(2-nitro-1-propenyl)-4-thienyl]-imidazole | [N+](=O)([O-])C(=CC=1SC=C(C1)N1C=NC=C1)C | C10H9N3O2S
